US07112585B2
[2-Methyl-5-(4-pyrimidin-5-yl-benzenesulfonyl)-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine
A mixture of trifluoromethanesulfonic acid 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenyl ester (95 mg, 0.18 mmol), prepared by the method described in Example 22, 5-tributylstannanyl-pyrimidine (75 mg, 0.20 mmol), LiCl (23 mg, 0.55 mmol) and DMF (4 mL) was deoxygenated with N2 for 10 min, and then Pd(PPh3)2Cl2 (13 mg, 0.018 mmol) and PPh3 (10 mg, 0.036 mmol) were added. The mixture was heated at 150° C. under N2 for 2 h and then cooled to room temperature. Saturated aqueous KF was added, and the mixture was extracted three times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (50:50 hexanes/EtOAc) to provide the target compound (66 mg, 80%) as a white solid: mp 210–212° C.; 1H NMR (300 MHz, CDCl3) δ 9.29 (s, 1H), 8.96 (s, 1H), 8.80 (s, 1H), 8.30 (br s, 1H), 8.13 (d, J=8.5 Hz, 2H), 7.76 (d, J=8.5 Hz, 2H), 6.93 (s, 2H), 2.41 (s, 3H), 2.31 (s, 3H), 2.03 (s, 6H); APCI MS m/z 446 [(M+H)+, calcd for C24H24N5O2S, 446.2].

reactant | trifluoromethanesulfonic acid 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenyl ester | 0.18 mmol, 95 mg | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C21H20F3N3O5S2
reactant | 5-tributylstannanyl-pyrimidine | 0.20 mmol, 75 mg | C(CCC)[Sn](C=1C=NC=NC1)(CCCC)CCCC
reactant | LiCl | 0.55 mmol, 23 mg | [Li+].[Cl-]
reactant | PPh3 | 0.036 mmol, 10 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | KF | [F-].[K+]
catalyst | Pd(PPh3)2Cl2 | 0.018 mmol, 13 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | [2-Methyl-5-(4-pyrimidin-5-yl-benzenesulfonyl)-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine | 66 mg, 80% | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)C=1C=NC=NC1 | C24H23N5O2S
